US07579473B2
6-(6,7-dimethoxy-quinolin-4-yloxy)-5-fluoro-benzothiazol-2-ylamine (95 mg, 0.25 mmol), Et3N (0.10 ml, 0.72 mmol), phenylacetyl chloride (0.044 ml, 0.33 mmol), and THF (1.0 ml) were combined and stirred at room temperature for 1 hr. Additional phenylacetyl chloride (0.044 ml, 0.33 mmol) was added and the mixture heated to reflux for 1-2 hrs. After cooling to room temperature, the reaction mixture was diluted with 1:1 AcCN:H2O (1.0 ml) and the resulting solids filtered, washed with 1:1 AcCN:H2O and dried under high vacuum to give N-[6-(6,7-dimethoxy-quinolin-4-yloxy)-5-fluoro-benzothiazol-2-yl]-2-phenyl-acetamide (72 mgs, 59%). 1H-NMR (400 MHz, DMSO): 12.80 (s, 1H), 8.54 (d, 1H), 8.18 (d, 1H), 7.91 (d, 1H), 7.60 (s, 1H), 7.45 (s, 1H), 7.34 (m, 4H), 7.28 (m, 1H), 6.60 (d, 1H), 3.98 (s, 3H), 3.96 (s, 3H), 3.86 (s, 2H). LC/MS Calcd for [M+H]+ 490.1, found 490.0.

reactant | 6-(6,7-dimethoxy-quinolin-4-yloxy)-5-fluoro-benzothiazol-2-ylamine | 0.25 mmol, 95 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC2=C(N=C(S2)N)C=C1F | C18H14FN3O3S
reactant | Et3N | 0.72 mmol, 0.10 ml | CCN(CC)CC | C6H15N
reactant | phenylacetyl chloride | 0.33 mmol, 0.044 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | THF | 1.0 ml | C1CCOC1 | C4H8O
reactant | phenylacetyl chloride | 0.33 mmol, 0.044 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | AcCN | C(=O)(C)C#N | C3H3NO
product | N-[6-(6,7-dimethoxy-quinolin-4-yloxy)-5-fluoro-benzothiazol-2-yl]-2-phenyl-acetamide | 72 mgs, 59% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC2=C(N=C(S2)NC(CC2=CC=CC=C2)=O)C=C1F | C26H20FN3O4S
